US06166219
Acetyl chloride (13 ml) was added dropwise to a solution of 2.98 g of ethyl 3-amino-2-nitrobenzoate and 20 ml of N,N-dimethylaniline in an ice bath. The mixture was stirred at room temperature for 48 hours. The reaction solution was acidified with 10% hydrochloric acid, and was extracted twice with ethyl acetate. The organic layer was washed three times with water. The solvent was distilled off under reduced pressure, and the resulting residue was crystallized with hexane. The crystals were separated through filtration, washed with hexane, and dried to give 3.30 g of ethyl 3-acetylamino-2-nitrobenzoate.

reactant | Acetyl chloride | 13 ml | C(C)(=O)Cl | C2H3ClO
reactant | ethyl 3-amino-2-nitrobenzoate | 2.98 g | NC=1C(=C(C(=O)OCC)C=CC1)[N+](=O)[O-] | C9H10N2O4
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylaniline | 20 ml | CN(C1=CC=CC=C1)C | C8H11N
product | ethyl 3-acetylamino-2-nitrobenzoate | 3.30 g | C(C)(=O)NC=1C(=C(C(=O)OCC)C=CC1)[N+](=O)[O-] | C11H12N2O5
